US06872730B2
To a solution of [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropylthio]phenoxy}ethyl)(2-pyridyl)]methylamine (1.34 g, 3.2 mmol) and THF (25 ml) under Argon, was added tetrabutylamonium floride (3.5 ml, 3.5 mmol, 1M in THF) at room temperature. After stirring for 15 minutes, a solution of ethyl 5-bromo-4-oxopentanoate (0.79 g, 3.5 mmol) in THF (5 ml) was added. The mixture was stirred for 3 h. The solvent was removed under vacuum and the remaining residue was chromatographed over silica gel to yield 830 mg (64%) of Ethyl 5-(3-{2-[6-(Methylamino)(2-pyridyl)]ethoxy }phenylthio)-4-oxopentanoate. NMR 1H Cl3CD δ: 7.38 (dd, 1H, J=7.2, 8.0 Hz), 7.17 (t, 1H, J=8.0 Hz), 6.89 (m, 2H), 6.71 (m, 1H), 6.54 (d, 1H, J=8.0 Hz), 6.25 (d, 1H, J=4.0 Hz), 4.30 (t, 2H, J=6.8 Hz), 4.13 (c, 2H, J=7.2 Hz), 3.72 (s, 2H), 3.07 (t, 2H, J=6.8 Hz), 2.91(m, 5H), 2.59 (t, 2H, J=6.8 Hz), 1.24 (t, 3H, J=7.2 Hz).

reactant | [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropylthio]phenoxy}ethyl)(2-pyridyl)]methylamine | 3.2 mmol, 1.34 g | CC(C)[Si](C(C)C)(SC=1C=C(OCCC2=CC=CC(=N2)CN)C=CC1)C(C)C | C23H36N2OSSi
reactant | tetrabutylamonium floride | 3.5 mmol, 1M, 3.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 5-bromo-4-oxopentanoate | 3.5 mmol, 0.79 g | BrCC(CCC(=O)OCC)=O | C7H11BrO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Ethyl 5-(3-{2-[6-(Methylamino)(2-pyridyl)]ethoxy }phenylthio)-4-oxopentanoate | 830 mg, 64% | CNC1=CC=CC(=N1)CCOC=1C=C(C=CC1)SCC(CCC(=O)OCC)=O | C21H26N2O4S
